US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(tetrahydro-2H-pyran-4-yl)phenyl)-Pyrrolidine-2,4-dione
The compound was synthesized starting from 1H-benzo[d]imidazol-5-amine (1.04 g, 7.89 mmol), 4-(tetrahydro-2H-pyran-4-yl)benzaldehyde (1.0 g, 5.26 mmol), mono-tert-butyl malonate (0.84 g, 5.26 mmol), 1-isocyano-2-methylpropan-2-yl methyl carbonate (0.83 g, 5.26 mmol) and sodium tert.-butoxide (0.829 g, 7.39 mmol) according to method 5.

reactant | 1H-benzo[d]imidazol-5-amine | 7.89 mmol, 1.04 g | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-(tetrahydro-2H-pyran-4-yl)benzaldehyde | 5.26 mmol, 1.0 g | O1CCC(CC1)C1=CC=C(C=O)C=C1 | C12H14O2
reactant | mono-tert-butyl malonate | 5.26 mmol, 0.84 g | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | 1-isocyano-2-methylpropan-2-yl methyl carbonate | 5.26 mmol, 0.83 g | C(OC(C[N+]#[C-])(C)C)(OC)=O | C7H11NO3
reactant | sodium tert.-butoxide | 7.39 mmol, 0.829 g | CC(C)([O-])C.[Na+]
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(tetrahydro-2H-pyran-4-yl)phenyl)-Pyrrolidine-2,4-dione | N1C=NC2=C1C=CC(=C2)N2C(CC(C2C2=CC=C(C=C2)C2CCOCC2)=O)=O | C22H21N3O3
